US08486968B2
(c) 3-Amino-2,4-dichloro-5-fluoro-benzylamine
2,4-Dichloro-5-fluoro-3 amino-benzamide (6.00 g, 26.9 mmol) in THF (175 mL) is added dropwise to LiAlH4 (1 M in THF, 28.0 mL) in THF (175 mL). The reaction mixture is stirred for 1 h at rt and 5 h at reflux. Excess LiAlH4 is destroyed under cooling as described by L. F. Fieser & M. Fieser Vol 1, p 584 Wiley 1967. After 30 min the mixture is filtered, the filtrate is concentrated, diluted with Et2O and the precipitate is collected.

reactant | 2,4-Dichloro-5-fluoro-3 amino-benzamide | 26.9 mmol, 6.00 g | ClC1=C(C(=O)N)C=C(C(=C1N)Cl)F | C7H5Cl2FN2O
reactant | LiAlH4 | 1 M, 28.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | 3-Amino-2,4-dichloro-5-fluoro-benzylamine | NC=1C(=C(CN)C=C(C1Cl)F)Cl | C7H7Cl2FN2
